US07618985B2
A suspension of 6-methoxy-4-methyl-2H-isoquinolin-1-one (215 mg, 1.1 mmol) in 5N hydrochloric acid (1 ml) was was irradiated in a microwave at 180° C. for 40 minutes. After removing solvent in vacuo the crude residue was purified by flash chromatography on silica (eluent: 1% methanol in DCM) to give 6-hydroxy-4-methyl-2H-isoquinolin-1-one (130 mg, 67%)., El-MS: m/z=174.3 [M-H]+.

reactant | 6-methoxy-4-methyl-2H-isoquinolin-1-one | 1.1 mmol, 215 mg | COC=1C=C2C(=CNC(C2=CC1)=O)C | C11H11NO2
solvent | hydrochloric acid | 5N, 1 ml | Cl | ClH
product | 6-hydroxy-4-methyl-2H-isoquinolin-1-one | 130 mg, 67% | OC=1C=C2C(=CNC(C2=CC1)=O)C | C10H9NO2
